US08133901B2
A.3.3 Synthesis of (R)-6-methyl-imidazo[2,1-b]-thiazole-5-carboxylic acid-piperidin-3-ylamide
To a cold (˜0° C.) solution of (R)-3-[(6-methyl-imidazo[2,1-b]thiazole-5-carbonyl)-amino]-piperidine-1-carboxylic acid tent-butyl ester (1.47 g) in dry DCM (30 mL) was added slowly TFA (4.63 mL). The reaction mixture was stirred at RT for 20 h, 5 eq more of TFA (4.63 mL) was added and the stirring was continued for 2 h. The reaction was concentrated in vacuo to yield the title compound as a bis-trifluoroacetate salt which was used for the next step without further purification.

reactant | (R)-3-[(6-methyl-imidazo[2,1-b]thiazole-5-carbonyl)-amino]-piperidine-1-carboxylic acid | CC=1N=C2SC=CN2C1C(=O)N[C@H]1CN(CCC1)C(=O)O | C13H16N4O3S
reactant | TFA | 4.63 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | TFA | 4.63 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | (R)-6-methyl-imidazo[2,1-b]-thiazole-5-carboxylic acid-piperidin-3-ylamide | N1C[C@@H](CCC1)NC(=O)C1=C(N=C2SC=CN21)C | C12H16N4OS
